US09029360B2
Step 3: 2-Methoxy-4,5,7,8-tetrahydro-thiazolo[4,5-d]azepine-6-carboxylic acid tert-butyl ester
1.00 g (3.00 mmol) bromo-4,5,7,8-tetrahydro-thiazolo[4,5-d]azepine-6-carboxylic acid tert-butyl ester, 0.40 g (7.00 mmol) sodium methylate in 15 mL methanol were heated at 100° C. for 4 h under microwave irradiation. The mixture was purified by chromatography.

reactant | bromo-4,5,7,8-tetrahydro-thiazolo[4,5-d]azepine-6-carboxylic acid tert-butyl ester | 3.00 mmol, 1.00 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)SC(=N2)Br | C12H17BrN2O2S
reactant | sodium methylate | 7.00 mmol, 0.40 g | C[O-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
product | 2-Methoxy-4,5,7,8-tetrahydro-thiazolo[4,5-d]azepine-6-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)SC(=N2)OC | C13H20N2O3S
